US07192968B2
(1R*,2S*,4R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(1-hydroxy-1-methylethyl)-1,2-cyclohexanediamine hydrochloride
A 4N hydrogen chloride solution in dioxane (10 ml) was added to an ethanol solution (5 ml) of (1R*,2S*,4R*)-N2tert-butoxycarbonyl-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(1-hydroxy-1-methylethyl)-1,2-cyclohexanediamine, and the mixture was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure to obtain the title compound (100 mg) as a colorless oil.

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | (1R*,2S*,4R*)-N2tert-butoxycarbonyl-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(1-hydroxy-1-methylethyl)-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CC[C@H](C1)C(C)(C)O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H32ClN3O4
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (1R*,2S*,4R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-(1-hydroxy-1-methylethyl)-1,2-cyclohexanediamine hydrochloride | 100 mg | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@H](C[C@@H](CC1)C(C)(C)O)N | InChI=1S/C18H24ClN3O2.ClH/c1-18(2,24)11-3-5-15(13(20)9-11)22-17(23)16-8-10-7-12(19)4-6-14(10)21-16;/h4,6-8,11,13,15,21,24H,3,5,9,20H2,1-2H3,(H,22,23);1H/t11-,13+,15-;/m1./s1
